US04530842
5-(4-cyanophenyl)-1,2-dihydro-6-methyl-2-oxopyridine-3-carbonitrile (process variant a)
6.2 g of cyanacetamide are added to a freshly prepared solution of 1.14 g sodium in 200 ml of absolute ethanol. 10.6 g 4-dimethylamino-3-(4-cyanophenyl)-3-buten-2-one are added and the solution is stirred 5 hours at boiling temperature, whereby the sodium salt of the title compound soon begins to crystallize out. The mixture is allowed to cool, the crystalline product is filtered and washed with ethanol and ether (m.p. of the sodium salt>300°) (m.p. of the free form>300°).

reactant | cyanacetamide | 6.2 g | C(#N)CC(=O)N | C3H4N2O
reactant | sodium | 1.14 g | [Na] | Na
reactant | 4-dimethylamino-3-(4-cyanophenyl)-3-buten-2-one | 10.6 g | CN(C=C(C(C)=O)C1=CC=C(C=C1)C#N)C | C13H14N2O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 5-(4-cyanophenyl)-1,2-dihydro-6-methyl-2-oxopyridine-3-carbonitrile | C(#N)C1=CC=C(C=C1)C=1C=C(C(NC1C)=O)C#N | C14H9N3O
